Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses soft, ___, cottage, cream cheese
 
Attending: ___.
 
Chief Complaint:
L sided weakness and numbness in face, arm, leg 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with
CLL on Venclexta, hx testicular cancer, diabetes, hypertension,
hyperlipidemia, obesity, right subcortical stroke in ___ with
residual left leg weakness (ambulates with a cane), remote BPV,
sick sinus syndrome status post pacemaker, depression with
psychotic features, presenting with vertigo, near falls, vision
changes.

He describes near-constant vertigo, worse with position changes,
and several near syncopal events, starting ___ morning ___. 

Symptoms initially improved that evening, but when he woke up on
___ felt significantly worse.  He had no associated nausea or
vomiting, but was taking reduced p.o. (water only minimal food)
due to concern that he would become nauseous and be at risk for
falling while going to the bathroom. 

On ___, he called the on-call physician for his insurance, 
and
was advised to go to the ED to be evaluated; however, he did 
not,
because he had just put in a freestyle ___ monitor and was
worried that they would take it out if he needed a scan (he paid
for this out of pocket).  He did however call his wife, from 
whom
he is separated, and went to stay with her.  Due to continuing
symptoms on ___, he went to ___ urgent care.

His vitals were unremarkable, and his exam was notable for 
almost
falling off of his chair with extraocular movement check. His
finger-nose-finger was notable for past pointing bilaterally, 
and
he had binocular double vision. He was sent to the ___ ED by
ambulance for further work-up.
He reports that

While getting into the ambulance from ___, he developed left
arm and leg weakness and numbness. On arrival to the emergency
room a rapid response was called due to concern for stroke. He
had hypoglycemia to 50. A an amp of dextrose, after his blood
sugar improved to 126 and left arm weakness and numbness
improved, however, his leg still is "paralyzed". CT head was
negative for an acute bleed; CTA head and neck had no thrombus.  


Labs notable for: 
WBC 8.9, hemoglobin 10.7, platelets 198
INR 1.6, ___ 17.2, PTT 46.3
BUN 21; hold blood: Sodium 138, K3.6, chloride 103, bicarb 25,
creatinine 1.1
Troponin negative, lactate 1.6
AST 42, ALT 38, alk phos 107, T bili 0.3, albumin 4.2
Negative serum tox for ASA, ethanol, acetaminophen, TCA.

___ Imaging notable for negative CTA head and CT brain
perfusion scan, copied below, wet read.

The patient was given:  
-1 amp dextrose
-Hydrocodone-acetaminophen ___ p.o. x2, which she reports was
ineffective

Vitals prior to transfer: Heart rate 73, blood pressure 136/65,
respiratory rate 16, satting 98% on room air, glucose 124.

Upon arrival to the floor, the patient confirms the above
history.  He additionally describes some dyspnea on exertion 
that
has been long-standing and which he attributes to his wife's
___ smoke.

A complete REVIEW OF SYSTEMS was negative except for as noted in
the HPI.  Specifically, he denies lightheadedness, headache,
chest pain, palpitations, abdominal pain, constipation, dysuria,
rash, joint pain.

Of note, in ___ and ___ he had an external work-up for
left arm weakness concerning for possible TIAs, unrevealing for
an embolic disorders.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
CLL (17p-) and Stage IIIA Mixed germ cell tumor of the testis
- ___ Lymphocytosis incidentally found during a psychiatric
hospitalization.
- ___ CT scan showed a slightly enlarged spleen at 14.5 cm
and no adenopathy.
- ___ He met with Dr. ___ in ___ at
___. WBC was 15.0 with 49.6% lymphocytes, Hgb 11.9,
and platelets 260,000. Flow cytometry was consistent with CLL,
and B-cell gene rearrangement confirmed clonality. CLL FISH 
panel
showed a p53 mutation. He was asymptomatic at the time of
diagnosis and followed with Dr. ___. 
- WBC gradually uptrended to 22.7 in ___, 37.3 in ___,
51.3 in ___, and 50.4 on ___. Hgb has decreased slightly
to 10.9 and Hct 34.4 with platelets 234,000 on the ___ 
labs.
- ___ Hematology care transitioned to Dr. ___
after Dr. ___. He also started having nightly sweats. 

- ___ CT Chest without lymphadenopathy or other notable
findings.
- ___ Initial ___ Hematology evaluation for second
opinion. WBC 50.7, Hgb 10.5, Hct 33.2, Plt 226. Peripheral blood
flow cytometry and cytogenetics confirmed CLL with TP53 
deletion.
- ___ CT Abdomen/Pelvis without lymphadenopathy or other
notable findings.
- ___ Started ibrutinib 420 mg daily.
- ___ Ibrutinib held for vitreous bleed
- ___ Ibrutinib restarted
- ___ Per OSH records, underwent scrotal U/S showing
heterogeneous left testicle, prominent rete testis on right.
- ___ Presented to his outpatient hematologist, Dr.
___ a painful swollen left testicle (swelling over 
~8 months, worsening pain). This had been evaluated on ___
with
an ultrasound that did not demonstrate torsion but did show
heterogeneous morphology of the left testicle. HCG was positive.
Referred to Dr. ___.
- ___ Underwent left radical orchiectomy. Pathology
revealed 3.9 cm malignant mixed germ cell tumor of the testis,
95% embryonal carcinoma, 2% teratoma, 2% yolk sac tumor, 1%
choriocarcinoma, invading hilar statin ___ vaginalis, with
lymphatic vascular invasion and metastatic tumor nodules in the
spermatic cord. pT2NxS1 (although no post-orch levels, beta hCG
64 on ___, up from 21 on ___ AFP 3, LDH normal).
- ___ CT torso showing new 8 mm nodule in the left lower
lobe, and comparison with CT ___. Left para-aortic
lymphadenopathy up to 2.8 cm and a 3.5 cm fluid collection in 
the left inguinal region/scrotum, felt to be likely 
postsurgical.
- ___ C1D1 EP
- ___ C2D1 EP (delayed 1 week after nasal infection
- ___ Admitted for weakness, fall
- ___ Admitted for parainfluenza pneumonia, symptomatic
anemia, palpitations, developed nausea/vomiting in hospital
- ___ C3D1 EP (delayed 1 week, added palonosetron)
- ___ C4D1 EP
- ___ CT torso with significant decrease in size of the
previously seen left para-aortic lymph node which now measures 6
mm, previously 28 mm. Otherwise no LAD.
- ___ Restarted ibrutinib for recurrent CLL (night sweats,
lymphocytosis)

PAST MEDICAL HISTORY:
- Sick sinus syndrome s/p PPM ___ Revo DDD,
MRI-compatible, ___
- CAD s/p DES to mid-LAD (___)
- Stroke ___ (with recovering motor function, though still with
some left thigh sensory decrease)
- Type II DM (on insulin)
- Hypertension
- Hyperlipidemia
- Morbid Obesity status post gastric bypass surgery ___
- OSA (not on CPAP)
- Pancreatitis secondary to alcohol (___)
- Cholecystectomy
- Hypothyroidism
- Osteoarthritis
- Bilateral shoulder surgery, chronic pain right shoulder
- Major depression with psychotic features
- Anxiety
- Conversion Disorder
- Benign Paroxysmal Positional Vertigo
- Glaucoma
 
Social History:
___
Family History:
No known history of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.2, pulse 57/83, heart rate 69, respiratory rate 20,
satting 99% on room air
GENERAL: Obese man, sitting comfortably in bed, fully 
conversant,
HEENT: Pupils 2 mm, reactive to light; no scleral icterus; moist
mucous membranes without any lesions.  
NECK: no lymphadenopathy
CV: Regular rate and rhythm without murmurs
PULM: Clear to auscultation bilaterally with good air movement
throughout and no adventitious sounds
ABD: Obese, nondistended, nontender; cannot assess organomegaly;
several ecchymoses at insulin sites
EXT: Warm, well-perfused, 1+ pitting edema to knees bilaterally
SKIN: No concerning rashes or lesions
NEURO: Alert, oriented, telling cogent history, no speech
abnormalities. 
Cranial nerves:
 - Left homonymous hemianopia on visual field testing.  Did not
assess blink to threat. 
 - UNABLE to do left lateral gaze with either eye when asked. 
 - Symmetric V1 through V3 sensation bilaterally, symmetric eyes
squeeze, bite, puffed cheeks. 
 - Hearing normal, hearing aids in place
 - Tongue midline, no palate deviation
 - Shrug symmetric
Strength: Moving left arm against gravity; 4+ out of 5 strength
in all muscle groups compared to 5 out of 5 on the right.  
Unable
to lift left leg against gravity on command. 
Sensation of upper extremities symmetric. Reports absent
sensation to light touch in all fields of the left leg compared
to right; does not feel pinprick on the left leg. 
Trouble following command for finger-nose-finger, but no obvious
dysmetria.
PSYCH:  slightly odd affect, but overall appropriate. 
ACCESS: Port

DISCHARGE PHYSICAL EXAM
=======================

PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 721)
    Temp: Pt. refused Vitals. (Tm 98.2), BP: 124/73
(105-151/57-73), HR: 78 (69-78), RR: 16 (___), O2 sat: 98%
(97-99), O2 delivery: Ra, Wt: 296.2 lb/134.36 kg  

GENERAL: Obese man, sitting comfortably in chair, conversant
NEURO: Alert, with fluent speech; EOMI; no scleral icterus; 
moist
mucous membranes without any lesions. Symmetric smile. Pronator
drift on L with eyes closed. ___ UE strength and
sensation. ___ motor at hip, ___ motor elsewhere + no sensation
at LLE; ___ motor, + sensation RLE. Was observed to walk from 
bathroom later in the morning, stable but slow gait.
NECK: no lymphadenopathy, no subclav LAD
CV: Regular rate and rhythm, distant heart sounds
PULM: Clear to auscultation bilaterally with good air movement, 
distant 
ABD: Obese, nondistended, nontender, excoriations on R side
EXT: Warm, well-perfused, 2+ ___ edema to mid-shin
SKIN: No concerning rashes or lesions
PSYCH:  linear thought, mood anxious 
ACCESS: Port
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:20PM BLOOD WBC-8.9 RBC-4.01* Hgb-10.7* Hct-34.8* 
MCV-87 MCH-26.7 MCHC-30.7* RDW-15.0 RDWSD-47.3* Plt ___
___ 03:20PM BLOOD Neuts-44.9 ___ Monos-10.0 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-4.01 AbsLymp-3.86* AbsMono-0.89* 
AbsEos-0.11 AbsBaso-0.03
___ 03:20PM BLOOD ___ PTT-46.3* ___
___ 03:20PM BLOOD UreaN-21*
___ 03:20PM BLOOD ALT-38 AST-42* AlkPhos-107 TotBili-0.3
___ 03:20PM BLOOD cTropnT-<0.01
___ 03:20PM BLOOD Albumin-4.2
___ 01:00AM BLOOD VitB12-513
___ 01:00AM BLOOD TSH-28*
___ 01:00AM BLOOD Free T4-0.7*
___ 03:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:23PM BLOOD Glucose-50* Lactate-1.6 Creat-1.1 Na-138 
K-3.6 Cl-103 calHCO3-25

PERTINENT IMAGING AND MICRO
===========================
1. Head CT: No evidence for acute intracranial hemorrhage or 
acute major 
vascular territorial infarction. 
2. CT perfusion: 6 ml area of T-max > 6 seconds and mismatch 
project over the left periatrial white matter and left lateral 
ventricle, possibly an artifact. If clinically indicated, MRI 
would be more sensitive for the detection of acute infarct. 
3. CTA: No carotid stenosis by NASCET criteria.  Atherosclerosis 
of 
intracranial carotid and intracranial vertebral arteries without 
flow-limiting stenosis. 
4. Ossification of the posterior longitudinal ligament in the 
upper cervical spine narrows the spinal canal, as seen on the 
prior cervical spine CT from ___. 

MRI Head w wo Contrast
1. No evidence of infarction, hemorrhage, mass, or edema. 

DISCHARGE LABS
==============
___ 12:00AM BLOOD WBC-9.6 RBC-3.62* Hgb-9.7* Hct-31.3* 
MCV-87 MCH-26.8 MCHC-31.0* RDW-15.1 RDWSD-47.3* Plt ___
___ 12:00AM BLOOD Glucose-181* UreaN-22* Creat-1.2 Na-138 
K-3.9 Cl-101 HCO3-21* AnGap-16
___ 12:00AM BLOOD ALT-32 AST-39 LD(LDH)-229 AlkPhos-94 
TotBili-0.3
___ 12:00AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.0 UricAcd-7.5*

 
Brief Hospital Course:
Mr. ___ is a ___ man with high risk CLL on venetoclax, 
insulin-dependent type 2 diabetes, history of left sided 
cerebrovascular accident, depression with psychotic features, 
reported history of conversion disorder, hypothyroidism, 
hypertension, who was admitted with left-sided weakness and 
diminished sensation in the setting of hypoglycemia and 3 days 
of vertigo. CT head negative, CTA head and neck with no thrombus 
on admission. MRI Brain performed without acute findings. His 
symptoms gradually resolved over the course of his stay and he 
was discharged with outpatient ___. 

TRANSITIONAL ISSUES
==================
[ ] Follow up hypothyroidism. Levothyroxine dose increase ___ 
from 75mcg to 100mcg, after lab findings of elevated TSH (28) 
and low free T4 (0.7). Needs repeat TSH/FT4 in ___ weeks 
[ ] Follow up on neurological symptoms. His L sided weakness and 
sensory deficits had resolved by time of discharge 
[ ] F/u blood glucose, he was discharged on his home ___ 
___ at meals with ISS per ___
[ ] For his MRI, his freestyle ___ was removed. He may require 
replacement as an outpatient. 
[ ] Follow up re: BPPV symptoms. 
[ ] Follow up re: L forearm-hand peripheral neuropathy, 
alleviated by capsaicin cream. He was continued on gabapentin 
600mg BID as an inpatient. 
[ ] Follow up on joint/tailbone pain, exacerbated by poor 
weather. 
[ ] Follow up uric acid level. He was given 1 dose of 
allopurinol at discharge after his AM labs showed uric acid 7.5. 
Will need repeat level at next appointment. 
[] Discharge weight 296lbs (134Kg), increased throughout 
hospitalization. Follow up weight, consider increasing dose of 
daily Lasix if needed

ACUTE ISSUES
============
#L sided weakness, numbness
#L homonymous hemianopsia
#H/o prior CVA
Presented with left-sided weakness and diminished sensation. No 
acute stroke was seen on CT/CTA imaging, despite what would be a 
large territory infarct given profound ipsilateral facial and 
upper and lower extremity symptoms. Neurology was consulted and 
had low suspicion for new event. Hypoglycemia was considered, as 
this can cause recrudescence of stroke symptoms; however, his 
symptoms persisted even with correction of blood sugar. B12 and 
TSH/T4 were also obtained; he was noted to be somewhat 
hypothyroid, even with medications, and we increased his dosage 
from 75mcg to 100mcg. He was placed on telemetry; no events were 
noted. With approval from our EP team and his outpatient 
cardiologist, an MRI brain was performed, with read notable for 
no evidence of infarction, hemorrhage, mass, or edema. He 
continued to work with our ___ team. His symptoms gradually 
resolved throughout his stay, with full upper extremity strength 
at discharge and waxing/waning ability to walk on his LLE. There 
was low concern for an acute stroke or TIA; the primary team, 
neurology, and psychiatry found that his presentation is most 
consistent with functional neurologic disorder, with possible 
recrudescence of stroke symptoms given hypoglycemia and low 
thyroid. He should follow up as an outpatient for further 
management of symptoms. 

#Hypoglycemia in setting of Insulin-dependent Type 2 Diabetes 
Mellitus 
His A1c in ___ was 8.7%. His home insulin regimen is 70/30, 
100 units 3 times daily. He was reportedly taking in much less 
p.o. in the setting of his persistent vertigo, which may explain 
his hypoglycemia. No symptoms of other common causes of 
hypoglycemia, eg infection or adrenal insufficiency, were found. 
No insulin was given on admission, and he was started on 50% of 
his dose the next morning. ___ was consulted 
and his insulin regimen was adjusted per their recommendations. 
His home metformin was held but restarted on discharge. His 
discharge regimen was home ___ ___ at meals with ISS 
per ___. 

#Anxiety
Psychiatry was consulted regarding his increasing anxiety, and 
were also made aware of his ongoing symptoms, potentially 
contributing to his anxiety. He was given lorazepam prn for 
acute anxiety events. 

#Diabetic neuropathy
He noted exacerbation of L sided neuropathy from fingers to mid 
forearm. He was given capsaicin cream prn to good effect, and 
did not note further symptoms throughout the rest of his stay. 
He also continued on his home gabapentin. 

#BPPV
He noted worsening vertigo the day prior to discharge, similar 
but reduced in intensity as compared to previous events. He 
noted that he had been given meclizine prior to good effect. He 
stated that he felt okay to move around, with the main symptom 
being that he saw double if something was held close to his 
face. He was given meclizine. He was able to ambulate without 
issues at time of discharge. 

CHRONIC ISSUES
==============
#Depression
He was continued on home ziprasidone.

#CLL
He brought in his venetoclax from home, and was continued on his 
regimen. He was given allopurinol on discharge given a slight 
increase in uric acid levels. 

#HTN
Continued on home losartan and metoprolol. He was also continued 
on home furosemide with furosemide prn for ___ edema and increase 
weight. He should follow up as an outpatient for weight check 
and possible uptitration of Lasix. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
2. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
3. Losartan Potassium 50 mg PO DAILY 
4. Magnesium Oxide 400 mg PO BID 
5. Gabapentin 600 mg PO BID 
6. Colchicine 0.6 mg PO DAILY 
7. Venetoclax 400 mg PO DAILY 
8. Lidocaine 5% Patch 3 PTCH TD QAM 
9. HydrOXYzine 10 mg PO Q6H:PRN anxiety 
10. ZIPRASidone Hydrochloride 40 mg PO BID 
11. Metoprolol Succinate XL 150 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Senna 8.6 mg PO BID:PRN Constipation - First Line 
14. Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY 
15. Rivaroxaban 20 mg PO DAILY 
16. Carbamide Peroxide 6.5% ___ DROP BOTH EARS DAILY 
17. Fenofibrate 54 mg PO DAILY 
18. Atorvastatin 40 mg PO QPM 
19. Furosemide 20 mg PO DAILY 
20. Acyclovir 400 mg PO Q8H 
21. melatonin 6 mg oral qhs 
22. Nystatin-Triamcinolone Cream 1 Appl TP BID 
23. Sucralfate 1 gm PO BID 
24. Pantoprazole 40 mg PO Q24H 
25. Aspirin 325 mg PO DAILY 
26. Levothyroxine Sodium 75 mcg PO DAILY 
27. ___ 100 Units Breakfast
___ 100 Units Lunch
___ 100 Units DinnerMax Dose Override Reason: home regimen

28. Topiramate (Topamax) 50 mg PO DAILY 

 
Discharge Medications:
1.  Capsaicin 0.025% 1 Appl TP TID:PRN neuropathy   
2.  Levothyroxine Sodium 100 mcg PO DAILY 
RX *levothyroxine [Euthyrox] 100 mcg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
4.  Acyclovir 400 mg PO Q8H  
5.  Aspirin 325 mg PO DAILY  
6.  Atorvastatin 40 mg PO QPM  
7.  Carbamide Peroxide 6.5% ___ DROP BOTH EARS DAILY  
8.  Colchicine 0.6 mg PO DAILY  
9.  Docusate Sodium 100 mg PO BID  
10.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
11.  Fenofibrate 54 mg PO DAILY  
12.  Furosemide 20 mg PO DAILY  
13.  Gabapentin 600 mg PO BID  
14.  HydrOXYzine 10 mg PO Q6H:PRN anxiety  
15.  ___ 100 Units Breakfast
___ 100 Units Lunch
___ 100 Units DinnerMax Dose Override Reason: home regimen
 
16.  Lidocaine 5% Patch 3 PTCH TD QAM  
17.  Losartan Potassium 50 mg PO DAILY  
18.  Magnesium Oxide 400 mg PO BID  
19.  melatonin 6 mg oral qhs  
20.  Metoprolol Succinate XL 150 mg PO DAILY  
21.  Nystatin-Triamcinolone Cream 1 Appl TP BID  
22.  Pantoprazole 40 mg PO Q24H  
23.  Rivaroxaban 20 mg PO DAILY  
24.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
25.  Sucralfate 1 gm PO BID  
26.  Topiramate (Topamax) 50 mg PO DAILY  
27.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP DAILY  
28.  Venetoclax 400 mg PO DAILY  
29.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Neuropathy
Weakness/numbness 

SECONDARY DIAGNOSIS 
===================
Hypoglycemia in the setting of Insulin-dependent type 2 diabetes
Insomnia
Depression 
Chronic lymphocytic leukemia
Benign paroxysmal positional vertigo
Hypertension 
Hypothyroidism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege to care for you at ___.  

WHY WAS I IN THE HOSPITAL?  
You noted that your left arm, leg, and face were paralyzed. You 
also noted that you weren't able to appreciate sensation on the 
left side of your face and your left arm and leg. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received CT scans and an MRI of your brain; in other 
words, we took pictures of your head. These pictures did not 
show an acute reason for your weakness and loss of sensation, 
which was reassuring. Your symptoms resolved over the course of 
your stay, and you worked with our physical therapists to help 
with the symptoms. 
- We gave you a cream to treat the neuropathy you endorsed in 
your left forearm. 
- We gave you more Lasix medication to help with the swelling in 
your lower legs. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
Continue to take all your medicines and keep your appointments.  

- Continue taking your insulin as you were prior to the 
hospitalization, you should check your blood sugar at least 4 
times a day
- Your levothyroxine (synthroid) dose was increased, you will 
need repeat labs in ___ weeks to monitor levels 

We wish you the ___. 

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___